US05034404
A mixture of 0.82g of 1-(6-chloro-3-pyridylmethyl)-1,2-dimethyl-3-nitroisothiourea, 0.464g of 40% methylamine aqueous solution and 10ml of acetonitrile was stirred for 2 hours at 70° C., and concentrated. The residue was purified by a column chromatography [developing solution: dichloromethane-methanol [10:1]) to afford 0.56g of 1-(6-chloro-3-pyridylmethyl)-1,3-dimethyl-2-nitroguanidine (Compound No. 8).

reactant | 1-(6-chloro-3-pyridylmethyl)-1,2-dimethyl-3-nitroisothiourea | 0.82g | ClC1=CC=C(C=N1)CN(C(SC)=N[N+](=O)[O-])C | C9H11ClN4O2S
reactant | methylamine | 0.464g | CN | CH5N
solvent | acetonitrile | 10ml | C(C)#N | C2H3N
product | 1-(6-chloro-3-pyridylmethyl)-1,3-dimethyl-2-nitroguanidine | 0.56g | ClC1=CC=C(C=N1)CN(C(=N[N+](=O)[O-])NC)C | C9H12ClN5O2
